US08048887B2
Ethyl 3-(6-amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate
Iron (1.03 g, 18.4 mmol) was added to a stirring solution of ethyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl)benzoate (1.70 g, 3.68 mmol) in EtOH (37 mL) and AcOH (37 mL) at 90° C. The slurry was allowed to stir for 1 hour. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl followed by 1M NaOH and sat. NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the titled compound (1.40 g 88%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.25-8.34 (1H, m), 8.00-8.03 (1H, m), 7.87-7.99 (3H, m), 7.69-7.75 (1H, m), 7.63 (1H, t, J=7.65 Hz), 7.26-7.37 (2H, m), 7.20 (1H, s), 6.98 (1H, s), 5.07 (2H, s), 4.35 (2H, q, J=7.03 Hz), 2.78 (3H, d, J=4.52 Hz), 1.34 (3H, t, J=7.03 Hz). LC-MS retention time: 1.46 min; m/z (MH+): 433. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | ethyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl)benzoate | 3.68 mmol, 1.70 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C(=C2)[N+](=O)[O-])C=2C=C(C(=O)OCC)C=CC2 | C25H19FN2O6
solvent | EtOH | 37 mL | CCO | C2H6O
solvent | AcOH | 37 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Iron | 18.4 mmol, 1.03 g | [Fe] | Fe
product | Ethyl 3-(6-amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate | 1.40 g, 88% | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C=1C=C(C(=O)OCC)C=CC1 | C25H21FN2O4
